US06977262B2
4-(2-Chlorophenyl)-4,7-dihydro-5-nitro-6-propyl-2H-pyrazolo[3,4-b]pyridine
To an aqueous solution (50 mL) of nitromethane (50 g) was added an aqueous solution (50 mL) of n-butylaldehyde (59 g), and the mixture was stirred with heating at 60° C. for 6 hours. The reaction mixture was allowed to cool to ambient temperature, and extracted with ethyl acetate. The solvent was evaporated under reduced pressure to give a brown oil (58 g). To a mixed solution of the obtained oil (50 g) in water (50 mL) and acetone (50 mL) was added sodium chromate (70 g). Under ice-cooling, concentrated sulfuric acid (46 mL) was added dropwise and the mixture was stirred for 5 hours. Ice-water (200 mL) was added and the mixture was extracted with ethyl acetate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (10:1)) to give 1-nitropentan-2-one (40 g) as a brown oil. A solution of 2-chlorobenzaldehyde (1.8 g), 3-aminopyrazole (1.0 g) and 1-nitropentan-2-one (1.4 g) in acetonitrile (20 mL) was heated under reflux overnight. The reaction mixture was cooled to room temperature, and the solvent was evaporated under reduced pressure to give an oil. The obtained oil was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (8:2)) to give the title compound (680 mg) as yellow crystals.

reactant | 2-chlorobenzaldehyde | 1.8 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-aminopyrazole | 1.0 g | NC1=NNC=C1 | C3H5N3
reactant | 1-nitropentan-2-one | 1.4 g | [N+](=O)([O-])CC(CCC)=O | C5H9NO3
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-(2-Chlorophenyl)-4,7-dihydro-5-nitro-6-propyl-2H-pyrazolo[3,4-b]pyridine | 680 mg | ClC1=C(C=CC=C1)C1C=2C(NC(=C1[N+](=O)[O-])CCC)=NNC2 | C15H15ClN4O2
